US04187306
16.4 g (0.05 mol) of 2-chloromethyl-3-(2-methoxycarbonyl-phenyl)-4H-quinazolin-4-one and 10 ml of liquid methylamine in 100 ml of ethylene glycol monomethyl ether are heated to 40° C. for 2 hours in an autoclave. After cooling the mixture, the colourless crystals are filtered off and washed several times with ethanol. 12 g (82.5% of theory) of 6-methyl-6,7-dihydro-5H,13H-quinazolino[3,2-a][1,4]benzodiazepine-5,13-dione are obtained.

reactant | 2-chloromethyl-3-(2-methoxycarbonyl-phenyl)-4H-quinazolin-4-one | 0.05 mol, 16.4 g | ClCC1=NC2=CC=CC=C2C(N1C1=C(C=CC=C1)C(=O)OC)=O | C17H13ClN2O3
reactant | methylamine | CN | CH5N
solvent | ethylene glycol monomethyl ether | 100 ml | COCCO | C3H8O2
product | 6-methyl-6,7-dihydro-5H,13H-quinazolino[3,2-a][1,4]benzodiazepine-5,13-dione | 12 g, 82.5% | CN1CC=2N(C3=C(C1=O)C=CC=C3)C(C=3C=CC=CC3N2)=O | C17H13N3O2
